US08383659B2
Ethylene glycol (2.18 ml) and p-toluenesulfonic acid (0.74 g) is added to a solution of 2-brom-3-methyl-5-formylthiophene (4.0 g) in toluene (98 ml) in a Dean-Stark apparatus. After 18 hours at reflux, the reaction is quenched with water. The organic phase is separated and the aqueous phase is extracted three times with ethyl acetate. The combined organic phases are dried over Na2SO4 and concentrated in vacuo. The crude product is purified on a semi-preparative HPLC to yield 2-(5-bromo-4-methyl-thiophen-2-yl)-[1,3]dioxolane (4.04 g) as a yellow oil MS (HPLC/MS): 250 (MH+). Retention time: 4.02 min.

reactant | Ethylene glycol | 2.18 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 0.74 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-brom-3-methyl-5-formylthiophene | 4.0 g | BrC=1SC(=CC1C)C=O | C6H5BrOS
solvent | toluene | 98 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(5-bromo-4-methyl-thiophen-2-yl)-[1,3]dioxolane | 4.04 g | BrC1=C(C=C(S1)C1OCCO1)C | C8H9BrO2S
